Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin / Tegaderm 
/ diazepam
 
Attending: ___.
 
Chief Complaint:
Needs CT colonography due to difficulty with bowel prep
 
Major Surgical or Invasive Procedure:
CT colonography on ___
 
History of Present Illness:
___ y.o F with diet controlled DM, HTN, GERD, history of repeated 
partial small-bowel obstruction, severe idiopathic axonal 
sensorimotor polyneuropathy admitted as a direct admission for 
bowel prep for CT colography. 

Upon arrival to the floor, the patient appeared well. She 
reported approximately 2 days of diarrhea, but denied blood in 
her diarrhea. She otherwise denied fevers, chills, abdominal 
pain. She endorsed intermittent chest pain, for which she 
follows with her cardiologist. The chest pain usually occurs at 
night while lying in bed and is associated with shortness of 
breath. The chest pain usually resolves with 2 nitroglycerin. 
She endorsed stable shortness of breath with exertion, which 
occurs even with transfer. 

 
Past Medical History:
Severe idiopathic axonal sensorimotor polyneuropathy with 
symptoms beginning in the late ___ or early ___. Symptoms began 
with weakness and sensory loss in the legs proximally. Symptoms 
have been responsive to plasmapheresis approximately yearly. As 
noted above, she is wheelchair bound.
Vitamin B12 deficiency
History of repeated partial small-bowel obstruction; requires 
low residue diet
Diabetes
Hypertension
GERD
Depression
Diverticulosis
Coronary vasospasm
Status post C-section x 2
Status post hysterectomy for leiomyomata
Left breast lumpectomy
Status post bilateral knee replacements
History of abdominal hematoma due to subcutaneous heparin
 
Social History:
___
Family History:
No family history of neurologic disease other than a brother who 
is ___ with recent symptoms of dementia. Mother and brother had 
diabetes.  Mother had liver, cervical and colon cancer.  Father 
had lung cancer.  Mother had coronary artery disease as well.
 
Physical Exam:
ADMISSION: 
VITALS: 97.7 PO 148 / 82 L Lying 60 16 93 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes dry
CV: Heart regular, + systolic murmur
RESP: Lungs clear to auscultation anteriorly with good air
movement bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
EXT: warm, mild edema at the level of the ankles

DISCHARGE: 
Temp: 98.4 PO BP: 139/70 HR: 59 RR: 18 O2 sat:
95% O2 delivery: Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes dry
CV: Heart regular, + systolic murmur
RESP: Lungs clear to auscultation anteriorly with good air
movement bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
EXT: warm, mild edema at the level of the ankles
 
Pertinent Results:
LABS AT DISCHARGE: 
================
___ 06:10AM BLOOD WBC-4.9 RBC-4.35 Hgb-12.9 Hct-41.6 MCV-96 
MCH-29.7 MCHC-31.0* RDW-14.4 RDWSD-50.6* Plt ___
___ 01:45PM BLOOD UreaN-7 Creat-0.8 Na-147 K-4.1 Cl-99 
HCO3-33* AnGap-15

IMAGING:
=======
___ CT Colonography
IMPRESSION:
1. No concerning colonic lesions are identified.  1 cm ileocecal 
valve lipoma. The exam is limited by thickening of approximately 
10 cm of nondistended colon in the hepatic flexure as well as 
poor distention of the upper rectum and mid sigmoid colon.  
Extensive pancolonic diverticulosis seen without diverticulitis.
2. 5.0 cm mass in the right adrenal gland shows bulk fat, 
consistent with myelolipoma.
 
Brief Hospital Course:
___ with diet controlled DM, HTN, GERD, history of repeated 
partial small-bowel obstruction, severe idiopathic axonal 
sensorimotor polyneuropathy, with a FH of colon cancer admitted 
for inpatient colonoscopy prep with planned CT colography.

Patient has had failed multiple extended bowel preps due to a 
long and tortuous colon so patient admitted for prep in order to 
undergo Virtual CT colonography. Attempt on ___ with poor prep 
and motion artifact. Repeat on ___ without any concerning 
findings. (Refer to pertinent results section). Patient to 
follow with PCP to discuss final results. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Bacitracin Ointment 1 Appl TP BID 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Gabapentin 100 mg PO BID 
8. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
9. Sertraline 150 mg PO DAILY 
10. TraZODone 25 mg PO QHS:PRN insomnia 
11. Multivitamins 1 TAB PO DAILY 
12. nystatin 100,000 unit/gram topical BID 
13. Polyethylene Glycol 17 g PO BID 
14. Zinc Oxide Diaper Cream (dimethicone-ZnOx-vit A-D-aloe) ___ 
% topical DAILY:PRN 
15. Lactulose 30 mL PO DAILY:PRN constipation 
16. diclofenac sodium 1 % topical TID 
17. Melatin (melatonin) 1 mg oral QHS:PRN 

 
Discharge Medications:
NO CHANGES TO YOUR MEDICATIONS
1. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Bacitracin Ointment 1 Appl TP BID 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Gabapentin 100 mg PO BID 
8. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
9. Sertraline 150 mg PO DAILY 
10. TraZODone 25 mg PO QHS:PRN insomnia 
11. Multivitamins 1 TAB PO DAILY 
12. nystatin 100,000 unit/gram topical BID 
13. Polyethylene Glycol 17 g PO BID 
14. Zinc Oxide Diaper Cream (dimethicone-ZnOx-vit A-D-aloe) ___ 
% topical DAILY:PRN 
15. Lactulose 30 mL PO DAILY:PRN constipation 
16. diclofenac sodium 1 % topical TID 
17. Melatin (melatonin) 1 mg oral QHS:PRN 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
scheduled admission for CT colonography prep

 
Discharge Condition:
stable
 
Discharge Instructions:
Dear Ms. ___, 

It was a privilege to care for you at the ___ 
___. You were admitted for a CT colonoscopy given 
difficulty with bowel prep and incomplete colonoscopy due to 
your colon anatomy. Preliminarily the results show nothing 
concerning, which is good news! You can discuss the full results 
with your PCP at follow up. 

Please continue all medications as prescribed and follow up with 
all appointments as detailed below. 

We wish you the best! 

Sincerely,
Your ___ Team  
 

 
Followup Instructions:
___